* Copyright © Linear Technology Corp. 2004m 2005. All rights reserved.
*
* Pinout: IN GROUND OUT
.SUBCKT LT1790-125 104 103 6
CG1 118 0 0.5
CILIM 107 0 10p
CREF 116 4 10p
DILIM1 107 105 DSW
DILIM2 106 107 DSW
DPWR1 111 109 DSW
DPWR2 110 103 DSW
DVLIM1 114 115 DSW
EVCC 7 0 104 0 1
EVEE 4 0 103 0 1
G1 0 118 116 102 111732
GILIM1 0 105 121 6 1E4
GILIM2 0 106 121 6 1E4
GILIMO 118 0 107 0 0.01
GITMPCO 104 103 113 0 4e-7
GLINE 0 116 7 4 0.000125
GLOAD 0 116 121 6 0.2
GNOISE 0 116 108 0 1
GOUT1 0 121 118 0 0.00125
GPWR1 109 0 121 6 10
GPWR2 110 0 121 6 10
GTEMP 0 116 113 112 1.25e-5
GVLIM2 0 114 104 111 480000000
GVLIM3 114 0 7 121 1000
GVLIMO 116 0 115 0 1000
IDUM1 0 108 0
IILIM1 0 105 10
IILIM2 106 0 10
ITEMP 0 113 1
ITYP 104 103 3.5e-5
IVLIM2 0 114 60
IVOPT 0 116 1.25
RFB1 102 6 0.01
RFB2 102 103 100000000
RG1 118 0 0.159155
RILIM1 105 0 1
RILIM2 106 0 1
RILIM3 107 0 1
RNOISE 108 0 241546000
ROUT1 121 4 800
RPWR1 109 7 1E3
RPWR2 110 4 1E3
RPWRS 111 104 1E-4
RREF 116 4 1
RSENSE 6 121 0.1
RTEMP 113 0 1 TC1=1
RVLIM2 114 0 1
RVLIM3 115 0 1
VDUM1 0 112 1
.MODEL DSW D(IS=1E-10 RS=0 KF=0 XTI=0)
.ENDS LT1790-125
*
* Pinout: IN GROUND OUT
.SUBCKT LT1790-2048 104 103 6
CG1 118 0 0.5
CILIM 107 0 10p
CREF 116 4 10p
DILIM1 107 105 DSW
DILIM2 106 107 DSW
DPWR1 111 109 DSW
DPWR2 110 103 DSW
DVLIM1 114 115 DSW
EVCC 7 0 104 0 1
EVEE 4 0 103 0 1
G1 0 118 116 102 111732
GILIM1 0 105 121 6 1E4
GILIM2 0 106 121 6 1E4
GILIMO 118 0 107 0 0.01
GITMPCO 104 103 113 0 4e-7
GLINE 0 116 7 4 0.000125
GLOAD 0 116 121 6 0.2
GNOISE 0 116 108 0 1
GOUT1 0 121 118 0 0.00125
GPWR1 109 0 121 6 10
GPWR2 110 0 121 6 10
GTEMP 0 116 113 112 1.25e-5
GVLIM2 0 114 104 111 480000000
GVLIM3 114 0 7 121 1000
GVLIMO 116 0 115 0 1000
IDUM1 0 108 0
IILIM1 0 105 10
IILIM2 106 0 10
ITEMP 0 113 1
ITYP 104 103 3.5e-5
IVLIM2 0 114 60
IVOPT 0 116 2.048
RFB1 102 6 0.01
RFB2 102 103 100000000
RG1 118 0 0.159155
RILIM1 105 0 1
RILIM2 106 0 1
RILIM3 107 0 1
RNOISE 108 0 241546000
ROUT1 121 4 800
RPWR1 109 7 1E3
RPWR2 110 4 1E3
RPWRS 111 104 1E-4
RREF 116 4 1
RSENSE 6 121 0.1
RTEMP 113 0 1 TC1=1
RVLIM2 114 0 1
RVLIM3 115 0 1
VDUM1 0 112 1
.MODEL DSW D(IS=1E-10 RS=0 KF=0 XTI=0)
.ENDS LT1790-2048
*
* Pinout: IN GROUND OUT
.SUBCKT LT1790-25 104 103 6
CG1 118 0 0.5
CILIM 107 0 10p
CREF 116 4 10p
DILIM1 107 105 DSW
DILIM2 106 107 DSW
DPWR1 111 109 DSW
DPWR2 110 103 DSW
DVLIM1 114 115 DSW
EVCC 7 0 104 0 1
EVEE 4 0 103 0 1
G1 0 118 116 102 111732
GILIM1 0 105 121 6 1E4
GILIM2 0 106 121 6 1E4
GILIMO 118 0 107 0 0.01
GITMPCO 104 103 113 0 4e-7
GLINE 0 116 7 4 0.000125
GLOAD 0 116 121 6 0.2
GNOISE 0 116 108 0 1
GOUT1 0 121 118 0 0.00125
GPWR1 109 0 121 6 10
GPWR2 110 0 121 6 10
GTEMP 0 116 113 112 1.25e-5
GVLIM2 0 114 104 111 480000000
GVLIM3 114 0 7 121 1000
GVLIMO 116 0 115 0 1000
IDUM1 0 108 0
IILIM1 0 105 10
IILIM2 106 0 10
ITEMP 0 113 1
ITYP 104 103 3.5e-5
IVLIM2 0 114 60
IVOPT 0 116 2.5
RFB1 102 6 0.01
RFB2 102 103 100000000
RG1 118 0 0.159155
RILIM1 105 0 1
RILIM2 106 0 1
RILIM3 107 0 1
RNOISE 108 0 241546000
ROUT1 121 4 800
RPWR1 109 7 1E3
RPWR2 110 4 1E3
RPWRS 111 104 1E-4
RREF 116 4 1
RSENSE 6 121 0.1
RTEMP 113 0 1 TC1=1
RVLIM2 114 0 1
RVLIM3 115 0 1
VDUM1 0 112 1
.MODEL DSW D(IS=1E-10 RS=0 KF=0 XTI=0)
.ENDS LT1790-25
*
* Pinout: IN GROUND OUT
.SUBCKT LT1790-3 104 103 6
CG1 118 0 0.5
CILIM 107 0 10p
CREF 116 4 10p
DILIM1 107 105 DSW
DILIM2 106 107 DSW
DPWR1 111 109 DSW
DPWR2 110 103 DSW
DVLIM1 114 115 DSW
EVCC 7 0 104 0 1
EVEE 4 0 103 0 1
G1 0 118 116 102 111732
GILIM1 0 105 121 6 1E4
GILIM2 0 106 121 6 1E4
GILIMO 118 0 107 0 0.01
GITMPCO 104 103 113 0 4e-7
GLINE 0 116 7 4 0.000125
GLOAD 0 116 121 6 0.2
GNOISE 0 116 108 0 1
GOUT1 0 121 118 0 0.00125
GPWR1 109 0 121 6 10
GPWR2 110 0 121 6 10
GTEMP 0 116 113 112 1.25e-5
GVLIM2 0 114 104 111 480000000
GVLIM3 114 0 7 121 1000
GVLIMO 116 0 115 0 1000
IDUM1 0 108 0
IILIM1 0 105 10
IILIM2 106 0 10
ITEMP 0 113 1
ITYP 104 103 3.5e-5
IVLIM2 0 114 60
IVOPT 0 116 3
RFB1 102 6 0.01
RFB2 102 103 100000000
RG1 118 0 0.159155
RILIM1 105 0 1
RILIM2 106 0 1
RILIM3 107 0 1
RNOISE 108 0 241546000
ROUT1 121 4 800
RPWR1 109 7 1E3
RPWR2 110 4 1E3
RPWRS 111 104 1E-4
RREF 116 4 1
RSENSE 6 121 0.1
RTEMP 113 0 1 TC1=1
RVLIM2 114 0 1
RVLIM3 115 0 1
VDUM1 0 112 1
.MODEL DSW D(IS=1E-10 RS=0 KF=0 XTI=0)
.ENDS LT1790-3
*
* Pinout: IN GROUND OUT
.SUBCKT LT1790-33 104 103 6
CG1 118 0 0.5
CILIM 107 0 10p
CREF 116 4 10p
DILIM1 107 105 DSW
DILIM2 106 107 DSW
DPWR1 111 109 DSW
DPWR2 110 103 DSW
DVLIM1 114 115 DSW
EVCC 7 0 104 0 1
EVEE 4 0 103 0 1
G1 0 118 116 102 111732
GILIM1 0 105 121 6 1E4
GILIM2 0 106 121 6 1E4
GILIMO 118 0 107 0 0.01
GITMPCO 104 103 113 0 4e-7
GLINE 0 116 7 4 0.000125
GLOAD 0 116 121 6 0.2
GNOISE 0 116 108 0 1
GOUT1 0 121 118 0 0.00125
GPWR1 109 0 121 6 10
GPWR2 110 0 121 6 10
GTEMP 0 116 113 112 1.25e-5
GVLIM2 0 114 104 111 480000000
GVLIM3 114 0 7 121 1000
GVLIMO 116 0 115 0 1000
IDUM1 0 108 0
IILIM1 0 105 10
IILIM2 106 0 10
ITEMP 0 113 1
ITYP 104 103 3.5e-5
IVLIM2 0 114 60
IVOPT 0 116 3.3
RFB1 102 6 0.01
RFB2 102 103 100000000
RG1 118 0 0.159155
RILIM1 105 0 1
RILIM2 106 0 1
RILIM3 107 0 1
RNOISE 108 0 241546000
ROUT1 121 4 800
RPWR1 109 7 1E3
RPWR2 110 4 1E3
RPWRS 111 104 1E-4
RREF 116 4 1
RSENSE 6 121 0.1
RTEMP 113 0 1 TC1=1
RVLIM2 114 0 1
RVLIM3 115 0 1
VDUM1 0 112 1
.MODEL DSW D(IS=1E-10 RS=0 KF=0 XTI=0)
.ENDS LT1790-33
*
* Pinout: IN GROUND OUT
.SUBCKT LT1790-4096 104 103 6
CG1 118 0 0.5
CILIM 107 0 10p
CREF 116 4 10p
DILIM1 107 105 DSW
DILIM2 106 107 DSW
DPWR1 111 109 DSW
DPWR2 110 103 DSW
DVLIM1 114 115 DSW
EVCC 7 0 104 0 1
EVEE 4 0 103 0 1
G1 0 118 116 102 111732
GILIM1 0 105 121 6 1E4
GILIM2 0 106 121 6 1E4
GILIMO 118 0 107 0 0.01
GITMPCO 104 103 113 0 4e-7
GLINE 0 116 7 4 0.000125
GLOAD 0 116 121 6 0.2
GNOISE 0 116 108 0 1
GOUT1 0 121 118 0 0.00125
GPWR1 109 0 121 6 10
GPWR2 110 0 121 6 10
GTEMP 0 116 113 112 1.25e-5
GVLIM2 0 114 104 111 480000000
GVLIM3 114 0 7 121 1000
GVLIMO 116 0 115 0 1000
IDUM1 0 108 0
IILIM1 0 105 10
IILIM2 106 0 10
ITEMP 0 113 1
ITYP 104 103 3.5e-5
IVLIM2 0 114 60
IVOPT 0 116 4.096
RFB1 102 6 0.01
RFB2 102 103 100000000
RG1 118 0 0.159155
RILIM1 105 0 1
RILIM2 106 0 1
RILIM3 107 0 1
RNOISE 108 0 241546000
ROUT1 121 4 800
RPWR1 109 7 1E3
RPWR2 110 4 1E3
RPWRS 111 104 1E-4
RREF 116 4 1
RSENSE 6 121 0.1
RTEMP 113 0 1 TC1=1
RVLIM2 114 0 1
RVLIM3 115 0 1
VDUM1 0 112 1
.MODEL DSW D(IS=1E-10 RS=0 KF=0 XTI=0)
.ENDS LT1790-4096
*
* Pinout: IN GROUND OUT
.SUBCKT LT1790-5 104 103 6
CG1 118 0 0.5
CILIM 107 0 10p
CREF 116 4 10p
DILIM1 107 105 DSW
DILIM2 106 107 DSW
DPWR1 111 109 DSW
DPWR2 110 103 DSW
DVLIM1 114 115 DSW
EVCC 7 0 104 0 1
EVEE 4 0 103 0 1
G1 0 118 116 102 111732
GILIM1 0 105 121 6 1E4
GILIM2 0 106 121 6 1E4
GILIMO 118 0 107 0 0.01
GITMPCO 104 103 113 0 4e-7
GLINE 0 116 7 4 0.000125
GLOAD 0 116 121 6 0.2
GNOISE 0 116 108 0 1
GOUT1 0 121 118 0 0.00125
GPWR1 109 0 121 6 10
GPWR2 110 0 121 6 10
GTEMP 0 116 113 112 1.25e-5
GVLIM2 0 114 104 111 480000000
GVLIM3 114 0 7 121 1000
GVLIMO 116 0 115 0 1000
IDUM1 0 108 0
IILIM1 0 105 10
IILIM2 106 0 10
ITEMP 0 113 1
ITYP 104 103 3.5e-5
IVLIM2 0 114 60
IVOPT 0 116 5
RFB1 102 6 0.01
RFB2 102 103 100000000
RG1 118 0 0.159155
RILIM1 105 0 1
RILIM2 106 0 1
RILIM3 107 0 1
RNOISE 108 0 241546000
ROUT1 121 4 800
RPWR1 109 7 1E3
RPWR2 110 4 1E3
RPWRS 111 104 1E-4
RREF 116 4 1
RSENSE 6 121 0.1
RTEMP 113 0 1 TC1=1
RVLIM2 114 0 1
RVLIM3 115 0 1
VDUM1 0 112 1
.MODEL DSW D(IS=1E-10 RS=0 KF=0 XTI=0)
.ENDS LT1790-5
